US04870078
4-(3-Sulfopropyl)-1-(o-chlorophenyl)piperazine, inner salt (Compound 13)
The reaction is conducted in the same manner as in Example 4 except that 4.2 g (21.4 mmols) of 1-(o-chlorophenyl)piperazine and 3.2 g (26.2 mmols) of 1,3-propanesultone are used. The resulting product is recrystallized from water.

reactant | 1-(o-chlorophenyl)piperazine | 21.4 mmols, 4.2 g | ClC1=C(C=CC=C1)N1CCNCC1 | C10H13ClN2
reactant | 1,3-propanesultone | 26.2 mmols, 3.2 g | C1COS(=O)(=O)C1 | C3H6O3S
product | 4-(3-Sulfopropyl)-1-(o-chlorophenyl)piperazine | S(=O)(=O)(O)CCCN1CCN(CC1)C1=C(C=CC=C1)Cl | C13H19ClN2O3S
